US06800645B1
Methyl 7-methoxy-2-(4-{pyrid-3-yl }benzyl)-3H-benzimidazole-4-carboxylate
A solution of methyl 2-(4-bromobenzyl)-7-methoxy-3H-benzimidazole-4-carboxylate [0.268 g, Reference Example 3(1)] in toluene (8 ml) was treated with tetrakis(triphenylphosphine) palladium (0) (0.266 g), aqueous sodium carbonate solution (0.5 ml, 2M) and diethyl (3-pyridyl)borane (0.085 g). The mixture was heated at reflux for 12 hours then cooled to room temperature. Aqueous work-up and subjected to flash chromatography on silica to give the title compound (0.128 g). NMR {(CD3)2SO}: δ 3.90(s, 3H), 4.10(s, 3H), 4.40(s, 2H), 6.70(d, 1H), 7.45(d, 3H), 7.60(d, 3H), 7.90 (dd, 1H), 8.60(d, 1H), 8.85(d, 1H), 10.10(s, 1H).

reactant | methyl 2-(4-bromobenzyl)-7-methoxy-3H-benzimidazole-4-carboxylate | 0.268 g | BrC1=CC=C(CC=2NC3=C(N2)C(=CC=C3C(=O)OC)OC)C=C1 | C17H15BrN2O3
reactant | sodium carbonate | 2M, 0.5 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | diethyl (3-pyridyl)borane | 0.085 g | C(C)B(C=1C=NC=CC1)CC | C9H14BN
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.266 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Methyl 7-methoxy-2-(4-{pyrid-3-yl }benzyl)-3H-benzimidazole-4-carboxylate | 0.128 g | COC1=CC=C(C2=C1N=C(N2)CC2=CC=C(C=C2)C=2C=NC=CC2)C(=O)OC | C22H19N3O3
